US06353006B1
Cyclohex-2-en-1-one was reduced according to Method B2b, Step 1 to afford cyclohex-2-en-1-ol. The alcohol was converted to the 3-bromo-1-cyclohexene according to Method B2b, Step 2. The halide was converted to N-(cyclohex-2-en-1-yl)-N-(2-hydroxyethyl)amine according to Method B2b, Step 3. The alcohol was reacted with SOCl2 according to Method B7a to afford N-(cyclohex-2-en-1-yl)-N-(2-chloroethyl)ammmonium chloride. The chloroethylamine was reacted with 2-methyl-4-nitrophenyl isothiocyanate according to method C1a to afford 2-(2-methyl -4-nitrophenylimino)-3-(cyclohex-2-en-1-yl)-1,3-thiazolidine.

reactant | chloroethylamine | ClCCN | C2H6ClN
reactant | 2-methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
product | 2-(2-methyl -4-nitrophenylimino)-3-(cyclohex-2-en-1-yl)-1,3-thiazolidine | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCCN1C1C=CCCC1 | C16H19N3O2S
